US04435403
A solution of 284 mg of 4-methoxymethyl-beta-carboline-3-carboxylic-acid-ethylester in 13 ml of chloroform is cooled to -30° C. and is dropwise mixed with 0.05 ml bromine in 1 ml of chloroform. This mixture is stirred for 2 h at -20° C. to -10° C., is poured into ice-cold 10% sodium hydrogen sulfite solution and extracted with methylene chloride. The crystallization in ethyl acetate yields 240 mg of 6-bromo-4-methoxymethyl-beta-carboline-3-carboxylic-acid-ethylester with a m.p. 207°-209° C.

reactant | 4-methoxymethyl-beta-carboline-3-carboxylic-acid-ethylester | 284 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=CC=C3C2C1COC | C16H16N2O3
reactant | bromine | 0.05 ml | BrBr | Br2
solvent | chloroform | 13 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-bromo-4-methoxymethyl-beta-carboline-3-carboxylic-acid-ethylester | 240 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)Br | C16H15BrN2O3
